US08017626B2
Method 37: 2-(4-Methoxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetic acid
Methyl 2-(4-methoxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate (0.150 g, 0.5 mmol) was dissolved in THF in a 25 mL round bottom flask. NaOH was added and the mixture was stirred for 1.5 hours. Dichloromethane and water were added to the reaction and the layers were separated. The aqueous layer was washed two more times with dichloromethane. To the aqueous phase, IN HCL was added until the pH was approximately 1. The aqueous phase was then extracted with 25% IPA/CHCl3, dried with MgSO4 and concentrated on a roto-evaporator. The compound was then purified by HPLC to give the desired product as a white solid.

reactant | Methyl 2-(4-methoxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate | 0.5 mmol, 0.150 g | COC1=C(C(N(C2=CC=CC=C12)C)=O)C(=O)NCC(=O)OC | C15H16N2O5
reactant | NaOH | [OH-].[Na+]
reactant | Dichloromethane | ClCCl | CH2Cl2
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4-Methoxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetic acid | COC1=C(C(N(C2=CC=CC=C12)C)=O)C(=O)NCC(=O)O | C14H14N2O5
